US04880840
C-(3-Bromobenzoyl)-N-(2-(4-methoxyphenyl)-1-methylethyl)nitrone
2.31 g (10 mmol) of 3-bromophenylglyoxal hydrate, 2.175 g (20 mmol) of N-(2-(4-methoxyphenyl)-1-methylethyl)hydroxylamine hydrochloride and 820 mg (10 mmol) of sodium acetate were stirred in 50 ml of absolute methanol at room temperature for 4 hours. After filtration, the fitrate was evaporated, 50 ml of water were added to the residue and the mixture was extracted with methylene chloride (3×25 ml).

reactant | 3-bromophenylglyoxal hydrate | 10 mmol, 2.31 g | O.BrC=1C=C(C=CC1)C(=O)C=O
reactant | N-(2-(4-methoxyphenyl)-1-methylethyl)hydroxylamine hydrochloride | 20 mmol, 2.175 g | Cl.COC1=CC=C(C=C1)CC(C)NO
reactant | sodium acetate | 10 mmol, 820 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | C-(3-Bromobenzoyl)-N-(2-(4-methoxyphenyl)-1-methylethyl)nitrone | BrC=1C=C(C(=O)C=[N+]([O-])C(CC2=CC=C(C=C2)OC)C)C=CC1 | C18H18BrNO3
